US07728030B2
(1R,2S)-2-amino-1-(3-methoxyphenyl)propan-1-ol (6b)
To a stirred solution of tert-butyl[(1S,2R)-2-hydroxy-2-(3-methoxyphenyl)-1-methylethyl]carbamate (317 mg, 1.13 mmol) in dichloromethane (3 ml) was added water (3 ml), and TFA (5 ml), so that a clear solution has been obtained. The mixture was stirred at r.t. for 1 h, than poured into water (30 ml). The aqueous layer was washed with dichloromethane (30 ml), and made alkaline (pH≈10) by addition of 10 N aqueous NaOH. Brine (20 ml) was added, and the solution was extracted with dichloromethane (3×30 ml). The extracts were dried with Na2SO4, and the solvent was removed under reduced pressure to afford the subtitle compound as colourless oil. Yield 179 mg (88%).

reactant | tert-butyl[(1S,2R)-2-hydroxy-2-(3-methoxyphenyl)-1-methylethyl]carbamate | 1.13 mmol, 317 mg | C(C)(C)(C)OC(N[C@H]([C@@H](C1=CC(=CC=C1)OC)O)C)=O | C15H23NO4
reactant | water | 3 ml | O | H2O
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (1R,2S)-2-amino-1-(3-methoxyphenyl)propan-1-ol | N[C@H]([C@H](O)C1=CC(=CC=C1)OC)C | C10H15NO2
